US04675332
A mixture of 4.0 g (0.014 mole) of 5-methoxy-1-phenyl-1H-indole-2-carboxylic acid, methyl ester in 7.0 ml (11.4 g; 0.096 mole) of thionyl chloride (under a nitrogen atmosphere) was stirred at ambient temperature for ten minutes. After the addition of 50 ml of 20% hexane in ether solution, the new mixture was cooled in ice for 30 minutes to precipitate the crude intermediate sulfinyl chloride. The solid was filtered and washed with hexane to yield 3.0 g (63% crude yield) of 3-(chlorosulfinyl)-5-methoxy-1-phenyl-1H-indole-2-carboxylic acid, methyl ester.

reactant | 5-methoxy-1-phenyl-1H-indole-2-carboxylic acid, methyl ester | 0.014 mole, 4.0 g | COC=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)OC | C17H15NO3
reactant | thionyl chloride | 0.096 mole, 7.0 ml, 11.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | hexane | 50 ml | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | 3-(chlorosulfinyl)-5-methoxy-1-phenyl-1H-indole-2-carboxylic acid, methyl ester | 3.0 g | ClS(=O)C1=C(N(C2=CC=C(C=C12)OC)C1=CC=CC=C1)C(=O)OC | C17H14ClNO4S
